US05240925
To a flask under a nitrogen atmosphere was added, with stirring, 3.3 g. (0.0825 mole) of 60% sodium hydride, washed twice with hexane to remove the original mineral oil, in 75 ml. of a dry 2 to 1 mixture of DMF and toluene. To this slurry at room temperature was added 11.30 g. (0.075 mole) of 4-chlorobenzyl cyanide in 40 ml. of DMF. After 1.5 hours, the mixture was cooled to 10° C. and 13.7 g. (0.0782 mole) of 2-(2-thienyl)ethyl methanesulfonate in 25 ml. of DMF was added dropwise. The reaction was stirred at room temperature for 13 hours. Then aqueous 10% hydrochloric acid, 20 ml., was added followed by 150 ml. of diethyl ether which was washed three times with 50 ml. portions of water. After drying the ether and concentrating, the product was distilled at 130°-150° C. at 1-2 mm of Hg yielding 2-(4-chlorophenyl)-4-(2-thienyl)butyronitrile as an oil.

reactant | sodium hydride | 0.0825 mole | [H-].[Na+]
reactant | 4-chlorobenzyl cyanide | 0.075 mole | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | 2-(2-thienyl)ethyl methanesulfonate | 0.0782 mole | CS(=O)(=O)OCCC=1SC=CC1 | C7H10O3S2
reactant | hydrochloric acid | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(4-chlorophenyl)-4-(2-thienyl)butyronitrile | ClC1=CC=C(C=C1)C(C#N)CCC=1SC=CC1 | C14H12ClNS
